US08039474B2
b) Ethyl N-nitroso-phenylamino-acetate
A solution of NaNO2 (9.5 g, 0.14 mol) in H2O (27 ml) is added to an ice-cold stirred solution of ethyl phenylamino-acetate (25 g, 0.14 mol) in conc. HCl (20 ml) and H2O (27 ml) within 2 h. The reaction mixture is kept stirring for 1 h and then extracted twice with CH2Cl2. The combined organic layers are washed with H2O and brine, dried over Na2SO4 and filtered. The solvent is evaporated and the crude subtitle compound thus obtained as orange oil is used without further purification. tR (LC-4) 1.02 min.

reactant | NaNO2 | 0.14 mol, 9.5 g | N(=O)[O-].[Na+]
reactant | ethyl phenylamino-acetate | 0.14 mol, 25 g | C1(=CC=CC=C1)NCC(=O)OCC | C10H13NO2
solvent | H2O | 27 ml | O | H2O
solvent | HCl | 20 ml | Cl | ClH
solvent | H2O | 27 ml | O | H2O
product | Ethyl N-nitroso-phenylamino-acetate | N(=O)N(C1=CC=CC=C1)CC(=O)OCC | C10H12N2O3
